US05438052
A mixture of 9.6 g (40 mmol) of methyl 3-bromo-4,5-dihydroxybenzoate, 8.4 g (62 mmol) of sulphuryl chloride and 400 ml of glacial acetic acid is stirred at 55° C. for 60 hours and subsequently concentrated at 40° C. in a vacuum. The residue is dissolved in 200 ml of methanol and saturated with hydrogen chloride. After standing at room temperature for 5 hours the solvent is distilled off in a vacuum. The residual material is treated with about 100 ml of dichloromethane/ethyl acetate/petroleum ether (1:1:1 v/v) and filtered. The filtrate is concentrated and the residue is crystallized and recrystallized from diethyl ether/petroleum ether. There are obtained 3.4 g of methyl 5-bromo-2-chloro-3,4-dihydroxybenzoate as white crystals of melting point 103° C.

reactant | methyl 3-bromo-4,5-dihydroxybenzoate | 40 mmol, 9.6 g | BrC=1C=C(C(=O)OC)C=C(C1O)O | C8H7BrO4
reactant | sulphuryl chloride | 62 mmol, 8.4 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | acetic acid | 400 ml | C(C)(=O)O | C2H4O2
product | methyl 5-bromo-2-chloro-3,4-dihydroxybenzoate | 3.4 g | BrC=1C(=C(C(=C(C(=O)OC)C1)Cl)O)O | C8H6BrClO4
